US06994800B1
Lithium bis(ethyldimethylsilyl)amide was prepared by the slow addition via syringe of a hexane solution of butyl lithium (50.6 mL of 2.73 M solution, 138 mmol) to a stirred hexane solution (100 mL) of bis(ethyldimethylsilyl)amine (26.2 g, 138 mmol) at room temperature. Stirring was continued for one hour and the solution was then refluxed for one hour. The hexane was evaporated under vacuum, leaving a pale yellow liquid. It was distilled at a temperature of 123° C. and a pressure of 0.2 torr to yield 23.2 g (86%) of clear liquid lithium bis(ethyldimethylsilyl)amide. Its viscosity was measured to be 37.5 centipoise at 40° C. Its NMR parameters are as follows:

reactant | butyl lithium | 138 mmol, 2.73 M, 50.6 mL | C(CCC)[Li]
reactant | bis(ethyldimethylsilyl)amine | 138 mmol, 26.2 g | C(C)[Si](C)(C)N[Si](CC)(C)C | C8H23NSi2
solvent | hexane | 100 mL | CCCCCC | C6H14
product | Lithium bis(ethyldimethylsilyl)amide | C(C)[Si](C)(C)[N-][Si](CC)(C)C.[Li+] | InChI=1S/C8H22NSi2.Li/c1-7-10(3,4)9-11(5,6)8-2;/h7-8H2,1-6H3;/q-1;+1
